US04952720
Methyl α-(2-benzoyloxymethylphenyl)-β-methoxyacrylate
12.2 g (0.1 mole) of benzoic acid and 5.6 g (0.1 mole) of potassium hydroxide are dissolved in 150 ml of ethanol and the solution is stirred for 2 hours at room temperature (20° C.). The white precipitate which separates out is filtered off under suction, washed with diethyl ether and suspended in 300 ml of dimethylformamide. Thereafter, 28.5 g (0.1 mole) of methyl alpha-(2-bromomethylphenyl)-β-methoxyacrylate are added. The reaction mixture is then stirred for 24 hours at room temperature, after which it is evaporated down and the residue is taken up in methylene chloride. The organic phase is washed with water, dried over MgSO4 and evaporated down. The oil obtained is chromatographed over silica gel using 10:1 cyclohexane/ethyl acetate. 25.4 g (78%) of the title compound are obtained as a colorless, viscous oil (compound No. 83).

reactant | benzoic acid | 0.1 mole, 12.2 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | potassium hydroxide | 0.1 mole, 5.6 g | [OH-].[K+]
reactant | methyl alpha-(2-bromomethylphenyl)-β-methoxyacrylate | 0.1 mole, 28.5 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=COC | C12H13BrO3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Methyl α-(2-benzoyloxymethylphenyl)-β-methoxyacrylate | 25.4 g, 78% | C(C1=CC=CC=C1)(=O)OCC1=C(C=CC=C1)C(C(=O)OC)=COC | C19H18O5
